US06051712
In an analogous manner to that described in Example 44 (e), by alkylating tert-butyl (3RS,4RS)-3-hydroxy-4-(4-hydroxy-phenyl)-piperidine-1-carboxylate [Example 46 (b)] with (E)-(4-bromo-but-2-enyloxy)-benzene there was obtained tert-butyl (E)-(3RS,4RS)-3-hydroxy-4-[4-(4-phenoxy-but-2-enyloxy)-phenyl]-piperidine-1-carboxylate. Subsequent hydrogenation with palladium/charcoal analogously to Example 73 (c) yielded tert-butyl (3RS,4RS)-3-hydroxy-4-[4-(4-phenoxy-butoxy)-phenyl]-piperidine-1-carboxylate, alkylation of which with 2-bromomethyl-naphthalene analogously to Example 1 (g) gave tert-butyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-[4-(4-phenoxy-butoxy)-phenyl]-piperidine-1-carboxylate as a colourless solid; MS: 582 (M+H)+.

reactant | tert-butyl (3RS,4RS)-3-hydroxy-4-[4-(4-phenoxy-butoxy)-phenyl]-piperidine-1-carboxylate | OC1CN(CCC1C1=CC=C(C=C1)OCCCCOC1=CC=CC=C1)C(=O)OC(C)(C)C | C26H35NO5
reactant | 2-bromomethyl-naphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
catalyst | palladium/charcoal | [Pd] | Pd
product | tert-butyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-[4-(4-phenoxy-butoxy)-phenyl]-piperidine-1-carboxylate | C1=C(C=CC2=CC=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)OCCCCOC1=CC=CC=C1)C(=O)OC(C)(C)C | C37H43NO5
